US08026261B2
A suspension of 2-difluoromethyl-5-hydroxy-1-methyl-1H-pyridin-4-one (0.50 g, 2.85 mmol), CF3CH(OH)OCH3 (2.37 g, 18.2 mmol) and potassium carbonate (0.122 g, 0.88 mmol) in a sealed parallel reactor test tube was heated to about 100° C. The progress of the reaction was monitored by HPLC Method 1 (Example 24), and only one major product peak was detected (HPLC peak percent area was about 20% after 1.5 h, and 38% after 3 h). The reaction mixture was heated for another 21 h, then cooled down to RT, and some white solid separated. The solid was collected by suction filtration. HPLC analysis of the solid dissolved in methanol showed the presence of 2-difluoromethyl-5-hydroxy-1-methyl-1H-pyridin-4-one and 6-difluoromethyl-3-hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one in 18/82 ratio. A portion of the solid was purified by column chromatography on silica gel (conc. NH4OH/isopropanol 10/100 v/v as eluant) to afford 6-difluoromethyl-3-hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (35 mg). HPLC Method 1 (Example 24), RT=11.3 min, HPLC purity (peak percent area): 97.9% at λ=280 nm. 1H NMR (DMSO-d6+1 drop of D2O) δ ppm: 7.12 (t, J=52.8 Hz, 1H), 6.56 (s, 1H), 5.83 (b, 1H), 3.79 (s, 3H). 19F NMR (DMSO-d6+1 drop of D2O) δ ppm: −73.3 (3F), −117.8 (2F). MS-ESI (m/z) 274.1 [M+1]+, 256.1, 228.1, 208.1 (100%), 180.1.

reactant | 2-difluoromethyl-5-hydroxy-1-methyl-1H-pyridin-4-one | 2.85 mmol, 0.50 g | FC(C=1N(C=C(C(C1)=O)O)C)F | C7H7F2NO2
reactant | CF3CH(OH)OCH3 | 18.2 mmol, 2.37 g | C(F)(F)(F)C(O)OC | C3H5F3O2
reactant | potassium carbonate | 0.88 mmol, 0.122 g | C([O-])([O-])=O.[K+].[K+]
product | 6-difluoromethyl-3-hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 35 mg | FC(C1=CC(C(=C(N1C)C(C(F)(F)F)O)O)=O)F | C9H8F5NO3
